US04914112
To 2-amino-4-(1-(2-fluoro-4-biphenylyl)ethyl)thiazole (500 mg, 1.68 mmol) in chloroform (20 ml) was added methylisocyanate (0.10 mg, 1.75 mmol) in chloroform (10 ml) under cooling with ice. After the mixture was stirred, methylisocyanate (0.15 mmol, 2.63 mmol) was added to the mixture, and then the mixture was stirred at room temperature overnight. The mixture was evaporated under reduced pressure to a residue, which was crystallized to afford N-methyl-N'-(4-(1-(2-fluoro-4-biphenylyl)ethyl)thiazol-2-yl)urea (0.499 g, 84% yield) as crystalline material: mp 208.5°-209.0° C.

reactant | 2-amino-4-(1-(2-fluoro-4-biphenylyl)ethyl)thiazole | 1.68 mmol, 500 mg | NC=1SC=C(N1)C(C)C1=CC(=C(C=C1)C1=CC=CC=C1)F | C17H15FN2S
reactant | methylisocyanate | 1.75 mmol, 0.10 mg | CN=C=O | C2H3NO
reactant | methylisocyanate | 0.15 mmol | CN=C=O | C2H3NO
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | N-methyl-N'-(4-(1-(2-fluoro-4-biphenylyl)ethyl)thiazol-2-yl)urea | 0.499 g, 84% yield | CNC(=O)NC=1SC=C(N1)C(C)C1=CC(=C(C=C1)C1=CC=CC=C1)F | C19H18FN3OS
